US05037827
(1) Synthesis of 1,3-O- diphenyloxycarbonyl-2-O-methylglycerol
20 g of 2-methoxy-1,3-propanediol was dissolved in 200 ml of pyridine. 52.6 ml of phenyl chlorocarbonate was added dropwise to the solution under stirring and under cooling with ice. After two hours, the reaction solution was added to 1 l of 4N hydrochloric acid/water. After extraction with ether, the organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate, concentrated and purified according to silica gel column chromatography (eluent: n-hexane/ethyl acetate=1/1) to obtain 52 g of the intended product.

reactant | 2-methoxy-1,3-propanediol | 20 g | COC(CO)CO | C4H10O3
reactant | phenyl chlorocarbonate | 52.6 ml | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
reactant | hydrochloric acid water | 4N, 1 l | Cl.O
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 1,3-O- diphenyloxycarbonyl-2-O-methylglycerol | 52 g | C1(=CC=CC=C1)OC(=O)OCC(OC)COC(=O)OC1=CC=CC=C1 | C18H18O7
